US04404214
0.89 g of 6-bromo-2-pyridinecarboxylic acid, 0.71 g of N,N-carbonyldiimidazole and 0.41 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and water, whereby 0.67 g of N-(5-tetrazolyl)-6-bromo-2-pyridinecarboxamide is obtained.

reactant | 6-bromo-2-pyridinecarboxylic acid | 0.89 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | N,N-carbonyldiimidazole | 0.71 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminotetrazole | 0.41 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-6-bromo-2-pyridinecarboxamide | 0.67 g | N1N=NN=C1NC(=O)C1=NC(=CC=C1)Br | C7H5BrN6O
